US06369110B1
A mixture of sodium methoxide (5.34 g, 98.9 mmol), guanidine hydrochloride (9.45 g, 98.9 mmol) and N,N-dimethylformamide (60 ml) was stirred at room temperature for 1 hour. Then, a solution of ethyl 3,4-dihydronaphthalene-2-carboxylate (2.00 g, 9.89 mmol) in N,N-dimethylformamide (20 ml) was added dropwise to the reaction mixture. The resulting mixture was stirred at room temperature for 7 hours and then allowed to stand overnight at room temperature. This reaction mixture was poured into a cold aqueous sodium chloride solution and extracted twice with ethyl acetate, and the extract solution was washed twice with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain crude N-(aminoiminomethyl)-3,4-dihydronaphthalene-2-carboxamide. This compound was dissolved in isopropyl alcohol, followed by adding thereto excess methanesulfonic acid, and the solid precipitated was collected by filtration and dried under reduced pressure to obtain 2.23 g of N-(aminoiminomethyl)-3,4-dihydronaphthalene-2-carboxamide methanesulfonate.

reactant | sodium methoxide | 98.9 mmol, 5.34 g | C[O-].[Na+]
reactant | guanidine hydrochloride | 98.9 mmol, 9.45 g | Cl.NC(=N)N
reactant | ethyl 3,4-dihydronaphthalene-2-carboxylate | 9.89 mmol, 2.00 g | C1=C(CCC2=CC=CC=C12)C(=O)OCC | C13H14O2
reactant | sodium chloride | [Cl-].[Na+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(aminoiminomethyl)-3,4-dihydronaphthalene-2-carboxamide | NN=CNC(=O)C1=CC2=CC=CC=C2CC1 | C12H13N3O
